US07419984B2
{4-[2-Amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-phenyl}-methanol
To a mixture of [4-(2-amino-6-chloro-pyrimidin-4-yl-amino)-phenyl]-methanol (6.0 g, 24 mmol), 5-chloro-2-ethoxy-phenyl boronic acid (7.7 g, 38.4 mmol), palladium (II) acetate (0.54 g, 2.4 mmol) and triphenylphosphine (1.26 g, 4.8 mmol) was added a solution of sodium carbonate (12.7 g, 120 mmol) in water (80 ml) followed by glyme (300 ml). The mixture was stirred under an argon atmosphere at 95-105° C. for 18 hours. Filtration and concentration of the filtrate yielded a residue which was purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (1:3) to provide the title compound (5.5 g, 62% yield) as a white powder. 1H NMR (DMSO-d6) δ 1.38 (t, 3H, J=6.9 Hz, CH3), 4.13 (q, 2H, J=6.9 Hz, CH2), 4.45 (d, 2H, J=5.7 Hz, CH2), 5.07 (t, 1H, J=5.7 Hz, OH), 6.26 (s, 2H, NH2), 6.77 (s, 1H, Ar), 7.14 (d, 1H, J-8.9 Hz, Ar), 7.24 (d, 2H, J=8.4 Hz, Ar), 7.41 (dd, 1H, J=8.8, 2.8 Hz, Ar), 7.64 (d, 2H, J=8.3 Hz, Ar), 7.93 (d, 1H, J=2.8 Hz, Ar), 9.12 (s, 1H, NH).

reactant | [4-(2-amino-6-chloro-pyrimidin-4-yl-amino)-phenyl]-methanol | 24 mmol, 6.0 g | NC1=NC(=CC(=N1)NC1=CC=C(C=C1)CO)Cl | C11H11ClN4O
reactant | 5-chloro-2-ethoxy-phenyl boronic acid | 38.4 mmol, 7.7 g | ClC=1C=CC(=C(C1)B(O)O)OCC | C8H10BClO3
reactant | triphenylphosphine | 4.8 mmol, 1.26 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 120 mmol, 12.7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 80 ml | O | H2O
catalyst | palladium (II) acetate | 2.4 mmol, 0.54 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | glyme | 300 ml | C(OC)COC | C4H10O2
product | {4-[2-Amino-6-(5-chloro-2-ethoxy-phenyl)-pyrimidin-4-ylamino]-phenyl}-methanol | 5.5 g, 62% yield | NC1=NC(=CC(=N1)NC1=CC=C(C=C1)CO)C1=C(C=CC(=C1)Cl)OCC | C19H19ClN4O2
